US04371736
2,2'-[4-Methyl-1,2-phenylenebis(oxy)]bis[5-chloropyridine]
In 40 ml of dimethylformamide, a mixture of 4.0 grams (0.032 mole) 4-methylcatechol, 12.0 grams 2,5-dichloropyridine, and 12.0 grams of potassium carbonate was heated between 140° and 145° overnight. To the reaction mixture at room temperature was added excess H2O and the resulting aqueous mixture was extracted with ethyl ether (200 ml) which was washed with H2O (2X), saturated NaHCO3, brine, dried (MgSO4), filtered, and the solvent evaporated to yield an oil. Chromatography on a silica gel column using 1-chlorobutane as the eluent gave 5.0 grams of a white solid, m.p. 87°-90°; ir (Nujol): 6.30 (C=N), 9.10, 12.25 microns; NMR (CDCl3): δ2.35 (s, 3H, CH3), 6.60 (d, 2H, pyridine ring protons), 7.00 (broads, 3H, ArH), 7.45 (AB quartet, 2H, pyridine ring protons), 7.95 (d, 2H, pyridine ring protons).

reactant | 4-methylcatechol | 0.032 mole, 4.0 grams | CC=1C=C(C(O)=CC1)O | C7H8O2
reactant | 2,5-dichloropyridine | 12.0 grams | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 12.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | 1-chlorobutane | ClCCCC | C4H9Cl
product | 2,2'-[4-Methyl-1,2-phenylenebis(oxy)]bis[5-chloropyridine] | 5.0 grams | CC1=CC(=C(C=C1)OC1=NC=C(C=C1)Cl)OC1=NC=C(C=C1)Cl | C17H12Cl2N2O2
